US04296114
1-(4-Chlorophenyl)-1,2-dihydro-3-(N,N-diethylamino)ethylaminoquinoxalin-2-one dihydrochloride
1-(4-Chlorophenyl)-1,2-dihydro-3-(N,N-diethylamino)ethylaminoquinoxalin-2-one (5.0 g) was dissolved in chloroform (150 ml) and dry hydrogen chloride was bubbled through the solution for 10 minutes. The precipitate was dried and recrystallised from ethanol giving the title compound mp >240° C.

reactant | 1-(4-Chlorophenyl)-1,2-dihydro-3-(N,N-diethylamino)ethylaminoquinoxalin-2-one | 5.0 g | ClC1=CC=C(C=C1)N1C(C(=NC2=CC=CC=C12)NCCN(CC)CC)=O | C20H23ClN4O
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(4-Chlorophenyl)-1,2-dihydro-3-(N,N-diethylamino)ethylaminoquinoxalin-2-one dihydrochloride | Cl.Cl.ClC1=CC=C(C=C1)N1C(C(=NC2=CC=CC=C12)NCCN(CC)CC)=O | InChI=1S/C20H23ClN4O.2ClH/c1-3-24(4-2)14-13-22-19-20(26)25(16-11-9-15(21)10-12-16)18-8-6-5-7-17(18)23-19;;/h5-12H,3-4,13-14H2,1-2H3,(H,22,23);2*1H
